US06235771B1
A solution of 5-bromo-2-hydroxyacetophenone 10.0 g (46.5 milli mole), acetone (17 ml) and pyrrolidine (3.9 ml) in toluene (100 ml) was refluxed for 4 hours. To the mixture was added acetone (17 ml), and the mixture was refluxed for 15 hours. To the mixture was added 1N hydrochloric acid (100 ml), and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brined, dried with magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate/hexane=1:7) to give yellow oil of 6-bromo-2,2-dimethyl-2,3-dihydro-4H-1-benzopyran-4-one (7.57 g).

reactant | 5-bromo-2-hydroxyacetophenone | 46.5 milli mole, 10.0 g | CC(=O)C1=C(C=CC(=C1)Br)O | C8H7BrO2
reactant | acetone | 17 ml | CC(=O)C | C3H6O
reactant | pyrrolidine | 3.9 ml | N1CCCC1 | C4H9N
reactant | acetone | 17 ml | CC(=O)C | C3H6O
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 6-bromo-2,2-dimethyl-2,3-dihydro-4H-1-benzopyran-4-one | 7.57 g | BrC=1C=CC2=C(C(CC(O2)(C)C)=O)C1 | C11H11BrO2
